US03976651
A solution of 0.1 mole of 6,7-dihydro-7-hydroxy-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid in 150 ml. of concentrated sulfuric acid is treated with a mixture of 150 ml. of concentrated sulfuric acid and 10 ml. of nitric acid while keeping the temperature below 30°C. The solution is stirred for about 24 hours, poured over ice and partially neutralized to a pH of 2 with ammonium hydroxide. The product, 6,7-dihydro-7-hydroxy-5-methyl-10-nitro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid is isolated by filtration.

reactant | 6,7-dihydro-7-hydroxy-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 0.1 mole | OC1C2=C3C(C(C(=CN3C(C1)C)C(=O)O)=O)=CC=C2 | C14H13NO4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 6,7-dihydro-7-hydroxy-5-methyl-10-nitro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | OC1C2=C3C(C(C(=CN3C(C1)C)C(=O)O)=O)=C(C=C2)[N+](=O)[O-] | C14H12N2O6
